************************************************************************
* auCdl Netlist:
* 
* Library Name:  MyLibPDK45
* Top Cell Name: myMulti_3bit_4bit
* View Name:     schematic
* Netlisted on:  Dec 27 22:32:16 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myNAND
* View Name:    schematic
************************************************************************

.SUBCKT myNAND A B Z
*.PININFO A:I B:I Z:O
MM1 Z B net013 gnd! NMOS_VTL W=90n L=50n m=1
MM0 net013 A gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM3 Z A vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM2 Z B vdd! vdd! PMOS_VTL W=180n L=50n m=1
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myInverter45
* View Name:    schematic
************************************************************************

.SUBCKT myInverter45 in out
*.PININFO in:I out:O
MM0 out in gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM1 out in vdd! vdd! PMOS_VTL W=180n L=50n m=1
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myXOR
* View Name:    schematic
************************************************************************

.SUBCKT myXOR A B Z
*.PININFO A:I B:I Z:O
MM1 A Bbar Z gnd! NMOS_VTL W=90n L=50n m=1
MM0 Z A Bbar gnd! NMOS_VTL W=90n L=50n m=1
MM3 A B Z vdd! PMOS_VTL W=180n L=50n m=1
MM2 Z A B vdd! PMOS_VTL W=180n L=50n m=1
XI0 B Bbar / myInverter45
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myHA
* View Name:    schematic
************************************************************************

.SUBCKT myHA A B Cout S
*.PININFO A:I B:I Cout:O S:O
XI0 A B net11 / myNAND
XI1 net11 Cout / myInverter45
XI2 A B S / myXOR
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myFA
* View Name:    schematic
************************************************************************

.SUBCKT myFA A B Cin Cout S
*.PININFO A:I B:I Cin:I Cout:O S:O
MM11 net35 Cin net068 vdd! PMOS_VTL W=180n L=50n m=1
MM10 net068 A net069 vdd! PMOS_VTL W=180n L=50n m=1
MM9 net069 B vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM8 net35 net79 net42 vdd! PMOS_VTL W=180n L=50n m=1
MM7 net42 Cin vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM6 net42 B vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM5 net42 A vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM4 net79 A net071 vdd! PMOS_VTL W=180n L=50n m=1
MM3 net071 B vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM2 net79 Cin net7 vdd! PMOS_VTL W=180n L=50n m=1
MM1 net7 B vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM0 net7 A vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM23 net60 B gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM22 net64 A net60 gnd! NMOS_VTL W=90n L=50n m=1
MM21 net35 Cin net64 gnd! NMOS_VTL W=90n L=50n m=1
MM20 net65 Cin gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM19 net65 B gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM18 net65 A gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM17 net35 net79 net65 gnd! NMOS_VTL W=90n L=50n m=1
MM16 net12 B gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM15 net79 A net12 gnd! NMOS_VTL W=90n L=50n m=1
MM14 net4 B gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM13 net4 A gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM12 net79 Cin net4 gnd! NMOS_VTL W=90n L=50n m=1
XI10 net35 S / myInverter45
XI9 net79 Cout / myInverter45
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myBuffer_2
* View Name:    schematic
************************************************************************

.SUBCKT myBuffer_2 in out
*.PININFO in:I out:O
XI1 net5 out / myInverter45
XI0 in net5 / myInverter45
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myPPA_4_3
* View Name:    schematic
************************************************************************

.SUBCKT myPPA_4_3 A0<3> A0<2> A0<1> A0<0> A1<3> A1<2> A1<1> A1<0> A2<3> A2<2> 
+ A2<1> A2<0> S<5> S<4> S<3> S<2> S<1> S<0>
*.PININFO A0<3>:I A0<2>:I A0<1>:I A0<0>:I A1<3>:I A1<2>:I A1<1>:I A1<0>:I 
*.PININFO A2<3>:I A2<2>:I A2<1>:I A2<0>:I S<5>:O S<4>:O S<3>:O S<2>:O S<1>:O 
*.PININFO S<0>:O
XI16 vdd! net025 net016 S<2> / myHA
XI21 net012 net021 net010 S<4> / myHA
XI22 net010 net020 net032 S<5> / myHA
XI6 A2bar<0> net34 net1 net025 / myHA
XI5 net28 A1bar<3> net5 net6 / myHA
XI0 A0<1> A1<0> net35 S<1> / myHA
XI18 net016 vdd! net023 net012 S<3> / myFA
XI9 net18 A2<3> net5 net027 net020 / myFA
XI8 net20 A2bar<2> net6 net18 net021 / myFA
XI7 net1 A2bar<1> net29 net20 net023 / myFA
XI4 net33 A0bar<3> A1<2> net28 net29 / myFA
XI3 net35 A0<2> A1<1> net33 net34 / myFA
XI10 A0<0> S<0> / myBuffer_2
XI11 A1<3> A1bar<3> / myInverter45
XI12 A0<3> A0bar<3> / myInverter45
XI13 A2<2> A2bar<2> / myInverter45
XI14 A2<1> A2bar<1> / myInverter45
XI15 A2<0> A2bar<0> / myInverter45
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myAnd
* View Name:    schematic
************************************************************************

.SUBCKT myAnd A B Z
*.PININFO A:I B:I Z:O
XI0 A B net7 / myNAND
XI1 net7 Z / myInverter45
.ENDS

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myMulti_3bit_4bit
* View Name:    schematic
************************************************************************

.SUBCKT myMulti_3bit_4bit MULTIPLICAND<3> MULTIPLICAND<2> MULTIPLICAND<1> 
+ MULTIPLICAND<0> MULTIPLIER<2> MULTIPLIER<1> MULTIPLIER<0> S<5> S<4> S<3> 
+ S<2> S<1> S<0>
*.PININFO MULTIPLICAND<3>:I MULTIPLICAND<2>:I MULTIPLICAND<1>:I 
*.PININFO MULTIPLICAND<0>:I MULTIPLIER<2>:I MULTIPLIER<1>:I MULTIPLIER<0>:I 
*.PININFO S<5>:O S<4>:O S<3>:O S<2>:O S<1>:O S<0>:O
XI0 A0<3> A0<2> A0<1> A0<0> A1<3> A1<2> A1<1> A1<0> A2<3> A2<2> A2<1> A2<0> 
+ S<5> S<4> S<3> S<2> S<1> S<0> / myPPA_4_3
XI12 MULTIPLICAND<0> MULTIPLIER<2> A2<0> / myAnd
XI11 MULTIPLICAND<1> MULTIPLIER<2> A2<1> / myAnd
XI10 MULTIPLICAND<2> MULTIPLIER<2> A2<2> / myAnd
XI9 MULTIPLICAND<3> MULTIPLIER<2> A2<3> / myAnd
XI8 MULTIPLICAND<0> MULTIPLIER<1> A1<0> / myAnd
XI7 MULTIPLICAND<1> MULTIPLIER<1> A1<1> / myAnd
XI6 MULTIPLICAND<2> MULTIPLIER<1> A1<2> / myAnd
XI5 MULTIPLICAND<3> MULTIPLIER<1> A1<3> / myAnd
XI4 MULTIPLICAND<3> MULTIPLIER<0> A0<3> / myAnd
XI3 MULTIPLICAND<2> MULTIPLIER<0> A0<2> / myAnd
XI2 MULTIPLICAND<1> MULTIPLIER<0> A0<1> / myAnd
XI1 MULTIPLICAND<0> MULTIPLIER<0> A0<0> / myAnd
.ENDS

